US06107301
N-(2-bromo-4-(1-methylethyl)phenyl)-N-ethyl-4-(4-(methoxyphenyl)-3-pyridyl-hydroxymethyl)-6-methylpyrimidinamine
A solution of 4-bromoanisole (0.2 g, 1.1 mmol) in anhydrous THF (10 mL) was cooled with stirring to -78° C. under a nitrogen atmosphere. A solution of t-butyl lithium in pentane (1.7M, 1.4 mL, 2.4 mmol) was added dropwise and the reaction mixture was stirred for 0.5 h. A solution of N-(2-bromo-4-(1-methylethyl)phenyl)-N-ethyl-4-(3-pyridyl-carbonyl)-6-methylpyrimidinamine (0.45 g, 1 mmol) in anhydrous THF (10 mL) was added dropwise and the reaction mixture was warmed gradually to ambient temperature over 18 h. The reaction mixture was poured onto a saturated NH4Cl solution and extracted three times with ethyl acetate. The combined organic layers were dried over MgSO4, filtered and concentrated in vacuo to give an oil. Column chromatography (ethyl acetate:hexanes::4:1) afforded the title product as a pale brown glass (170 mg, 31% yield, Rf 0.2): mp 68-70° C.; NMR (CDCl3, 300 MHz): 8.6-8.4 (m, 2H), 7.7-7.5 (m, 1H), 7.5 (s, 1H), 7.25-7.05 (m, 6H), 6.95-6.75 (m, 2H), 6.25-6.2 (m, 1H), 5.85-5.7 (m, 1H), 4.25-4.05 (m, 1H), 3.8 (br s, 3H), 3.95-3.75 (m, 1H), 3.00-2.8 (m, 1H), 2.45-2.1 (br s, 3H), 1.35-1.15 (m, 9H); CI-HRMS: Calcd(C29H31BrN4O2): 547.1709 (M+H), Found: 547.1709.

reactant | 4-bromoanisole | 1.1 mmol, 0.2 g | BrC1=CC=C(C=C1)OC | C7H7BrO
reactant | t-butyl lithium | C(C)(C)(C)[Li]
reactant | pentane | 2.4 mmol, 1.7M, 1.4 mL | CCCCC | C5H12
reactant | N-(2-bromo-4-(1-methylethyl)phenyl)-N-ethyl-4-(3-pyridyl-carbonyl)-6-methylpyrimidinamine | 1 mmol, 0.45 g | BrC1=C(C=CC(=C1)C(C)C)N(C1=NC(=CC(=N1)C(=O)C=1C=NC=CC1)C)CC | C22H23BrN4O
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(2-bromo-4-(1-methylethyl)phenyl)-N-ethyl-4-(4-(methoxyphenyl)-3-pyridyl-hydroxymethyl)-6-methylpyrimidinamine | 170 mg, 31% yield | BrC1=C(C=CC(=C1)C(C)C)N(C1=NC(=CC(=N1)C(O)C=1C=NC=CC1C1=C(C=CC=C1)OC)C)CC | C29H31BrN4O2
